US08252820B2
A. 2,2-Dimethyl-pent-4-ynoic acid isopropyl ester
To a solution of LDA (2M in THF, 5 mL) in THF (5 mL), at −78° C. is added a solution of isobutyric acid isopropyl ester (1.3 g, 10 mmol) in THF (3 mL) dropwise. After the addition is complete, the solution is slowly warmed to 0° C. and stirred there for 1 h. The temperature is reduced to −78° C. and a solution of 3-bromo-propyne (1.2 g, 10 mmol) in THF (3 mL) is added dropwise then the solution is allowed to warm to RT and stirred for 18 h. The mixture is poured into water and extracted with EtOAc. The organic layer is dried, filtered and the solvent is removed under reduced pressure. The residue is purified by flash chromatography using hexane/EtOAc (10:1) as eluent to give the product as a colorless liquid.

reactant | LDA | 2M, 5 mL | [Li+].CC(C)[N-]C(C)C
reactant | isobutyric acid isopropyl ester | 10 mmol, 1.3 g | C(C)(C)OC(C(C)C)=O | C7H14O2
reactant | 3-bromo-propyne | 10 mmol, 1.2 g | BrCC#C | C3H3Br
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2,2-Dimethyl-pent-4-ynoic acid isopropyl ester | C(C)(C)OC(C(CC#C)(C)C)=O | C10H16O2
